* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Cross Conduction Prototype 1.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 PULSE(0 5 0 30u 30u 0.5)
A1 N004 N003 0 0 0 N005 0 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05, Vlow = -10
R1 N001 N004 10000
R2 N004 0 10000
R3 N002 N003 6000
R4 N003 0 10000
C1 N003 0 5µ
D1 N001 N002 D
M1 P001 N005 N001 N001 PMOS
R6 P001 0 1000
C2 N005 0 1p
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
.backanno
.end
