* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Cross Conduction Prototype 1.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 PULSE(0 5 0 30u 30u 0.5)
A1 N004 N003 0 0 0 N005 0 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05, Vlow = -10
R2 N004 0 10000
R4 N003 0 10000
C1 N003 0 5µ
D1 N001 N002 D
M1 P001 N005 N001 N001 PMOS
R6 P001 0 1000
C2 N005 0 1p
A2 N008 N010 0 0 0 N011 0 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05, Vlow = -10
D3 N006 N009 D
R5 N001 N004 10000
R7 N006 N008 10000
R8 N008 0 10000
R9 N002 N003 6000
R1 N009 N010 6000
R3 N010 0 10000
C3 N010 0 5µ
M2 N007 N011 N006 N006 PMOS
C5 N011 0 1p
V2 N006 0 PULSE(0 5 0 30u 30u 0.5)
R10 N007 0 1000
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Maybe add zero ohm jumpers to this part just incase we don't need it
.backanno
.end
